US05389641
A mixed solution of methyl 2-nitro-3-(2-oxo-n-propyl)benzoate (0.33 g) and 10% Pd/C (50% wet, 0.33 g) in THF (20 ml) was stirred under H2 atmosphere at room temperature for 2.5 hours. After removal of insoluble materials by filtration, the filtrate was concentrated to dryness. The residue was purified by column chromatography on silica gel to give methyl 2-methylindole-7-carboxylate as a pale yellow syrup (0.225 g).

reactant | methyl 2-nitro-3-(2-oxo-n-propyl)benzoate | 0.33 g | [N+](=O)([O-])C1=C(C(=O)OC)C=CC=C1CC(C)=O | C11H11NO5
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.33 g | [Pd] | Pd
product | methyl 2-methylindole-7-carboxylate | 0.225 g | CC=1NC2=C(C=CC=C2C1)C(=O)OC | C11H11NO2
